* source I-COMPARADOR-01
M_M4         VX N27085 N26671 N26671 CMOSP  
+ L=1u  
+ W=6u         
V_V2         N26771 0 1
V_Vbias         N27179 0 .6
M_M5         N27149 N27179 0 0 CMOSN  
+ L=1u  
+ W=3u         
V_V1         N26823 0  
+SIN 1 5m 100k 0 0 0
V_VDD         N26671 0 2
M_M6         VOUT VX N26671 N26671 CMOSP  
+ L=.5u  
+ W=50u         
C_C1         0 VX  .2p  TC=0,0 
M_M7         VOUT N27179 0 0 CMOSN  
+ L=.5u  
+ W=12u         
M_M1         N27085 N26823 N27149 0 CMOSN  
+ L=.2u  
+ W=4u         
M_M2         VX N26771 N27149 0 CMOSN  
+ L=.2u  
+ W=4u         
C_C2         0 VOUT  5p  TC=0,0 
M_M3         N27085 N27085 N26671 N26671 CMOSP  
+ L=1u  
+ W=6u         
